US04880781
A stirred solution of the product, the γ-lactone of (2S,4R,5S)-5-amino-4-hydroxy-2-isopropyl-7-methyloctanoic acid from Preparation VIB above in THF (50 ml) is cooled slightly in an ice-water bath and treated with di-t-butyldicarbonate (13.3 g., 0.0610 mol) and THF (10 ml). The mixture is kept at ambient temperature, under N2 for 18 hours, (TLC on silica gel with 5% MeOH-CHCl3 and ninhydrin spray may be used to show if starting material is present) treated with additional di-t-butyldicarbonate (3.32 g.) and stirred for 6 hours. The mixture is treated with a solution of NaHCO3 (0.84 g., 0.01 mol) in water (10 ml), kept at ambient temperature for 2 hours and concentrated in vacuo. The residue is mixed with a little brine and extracted three times with EtOAc. The extracts are washed with brine, dried (MgSO4) and concentrated. The residue is chromatographed on silica gel with 2% EtOAc-CH2Cl2. The product, γ -lactone of (2S,4R,5S)-5-(t-butoxycarbonylamino)-4-hydroxy-2-isopropyl-7-methyloctanoic acid, thus obtained was dissolved in pentane, filtered through a small pad of Magnisol and crystallized to give 6.73 g., m.p. 87.5°-89° C., 0.98 g., m.p. 87°-89° C. and 0.498 g., m.p. 87°-88.5° C.

reactant | (2S,4R,5S)-5-amino-4-hydroxy-2-isopropyl-7-methyloctanoic acid | N[C@H]([C@@H](C[C@H](C(=O)O)C(C)C)O)CC(C)C | C12H25NO3
reactant | di-t-butyldicarbonate | 0.0610 mol, 13.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ninhydrin spray | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | di-t-butyldicarbonate | 3.32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 0.01 mol, 0.84 g | C(=O)(O)[O-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | (2S,4R,5S)-5-(t-butoxycarbonylamino)-4-hydroxy-2-isopropyl-7-methyloctanoic acid | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C[C@H](C(=O)O)C(C)C)O)CC(C)C | C17H33NO5
